US05814631
As the starting substances, methyl 4-chloro-2-phenoxycarbonylaminobenzoate and 4-aminobenzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-(4-aminobenzenesulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea and further to obtain from 470 mg (1.27 mmol) of N-(4-aminobenzenesulfonyl)-N'-(2-carboxy-5-chlorophenyl)urea 270 mg of the above-identified compound (yield 60.5%). Properties: colorless crystal, Melting point: >250° C. (decomposition), PMR (δppm, DMSO-d6):6.39 (2H,s), 6.63 (2H,d), 7.09 (1H,s), 7.22 (2H,d), 7.76 (2H,d), 7.83 (2H,d), 11.51 (1H,s).

reactant | methyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
reactant | 4-aminobenzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
product | N-(4-aminobenzenesulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea | NC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OC | C15H14ClN3O5S
